US07018988B2
(2S,4EZ)-4-[(benzyloxy)imino]-N-(9-ethyl-9H-carbazol-3-yl)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 93% purity by LC/MS. MS(ESI+): m/z=619.6.

reactant | (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-4-[(benzyloxy)imino]-N-(9-ethyl-9H-carbazol-3-yl)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)C=1C(OC(=CC1)CCCCC)=O)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C37H38N4O5
